US09340520B2
Nitrogen was bubbled through a solution of ethyl 2-((2R,6R)-2,6-dimethyl-2H-pyran-4(3H,5H,6H)-ylidene)-2-formamidoacetate (17.0 g, 70.5 mmol) in MeOH (480 mL) for 10 min in a 2.5 L Parr hydrogenation vessel. Then (−)-1,2-bis((2S,5S)-2,5-dimethylphospholano)ethane(cyclooctadiene)-rhodium (I) tetrafluoroborate (0.706 g, 1.27 mmol) was added and the reaction vessel was sealed, vacuum flushed with nitrogen (4×) and then vacuum flushed with hydrogen (4×). The reaction solution was shaken under 60 psi of hydrogen for 3 d, removed from the shaker and concentrated to a dark red oil. The crude oil was purified with a Biotage® Horizon chromatography (300 g SiO2, 50-75% EtOAc/hexanes) to yield (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-formamidoacetate (17.4 g, contains 5.9% w/w solvents (EtOAc and DCM) by 1H-NMR) as a light yellow viscous oil. The 1H-NMR data indicates a 10:1 mixture of two amide rotamers. 1H-NMR (400 MHz, CDCl3) δ 8.26 (s, 0.9H), 8.01 (d, J=11.8 Hz, 0.1H), 6.15 (d, J=8.5 Hz, 0.9H), 5.96-5.84 (m, 0.1H), 4.68 (dd, J=9.0, 5.0 Hz, 0.9H), 4.33-4.17 (m, 3H), 3.87 (dd, J=10.2, 6.4 Hz, 0.1H), 3.75 (dqd, J=11.5, 6.0, 2.0 Hz, 1H), 2.41-2.29 (m, 0.9H), 2.29-2.19 (m, 0.1H), 1.72-1.28 (m, 3H), 1.28-1.23 (m, 6H), 1.17-1.10 (m, 3H), 1.09-0.96 (m, 1H). 13C-NMR (101 MHz, CDCl3) δ 170.6, 160.3, 68.1, 64.0, 61.4, 54.2, 36.0, 33.1, 30.6, 21.9, 16.7, 13.9. LC-MS retention time 1.64 min; m/z 244.25 (M+H)+. LC data were recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 3μ C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min. Solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid, and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data were determined using a Micromass Platform for LC in electrospray mode.

reactant | ethyl 2-((2R,6R)-2,6-dimethyl-2H-pyran-4(3H,5H,6H)-ylidene)-2-formamidoacetate | 70.5 mmol, 17.0 g | C[C@H]1O[C@@H](CC(C1)=C(C(=O)OCC)NC=O)C | C12H19NO4
solvent | MeOH | 480 mL | CO | CH4O
catalyst | (−)-1,2-bis((2S,5S)-2,5-dimethylphospholano)ethane(cyclooctadiene)-rhodium (I) tetrafluoroborate | 1.27 mmol, 0.706 g | [B-](F)(F)(F)F.C[C@@H]1P([C@H](CC1)C)CCP2[C@H](CC[C@@H]2C)C.C1/C=C\CC/C=C\C1.[Rh]
product | (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-formamidoacetate | 17.4 g | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)OCC)NC=O)C | C12H21NO4
